US08624056B2
But-2-ynyl bromide (0.29 mL, 3.4 mmol) was added to a suspension of 4-difluoromethoxy-3-hydroxybenzaldehyde (0.43 g, 2.3 mmol) and potassium carbonate (0.95 g, 6.9 mmol) in acetonitrile (5 mL). The suspension was heated to reflux for 16 h and then concentrated under reduced pressure. Water was added and the aqueous phase was extracted with EtOAc. The combined organic fractions were washed with water, brine, dried. The product was concentrated under reduced pressure providing 3-(but-2-ynyloxy)-4-difluoromethoxybenzaldehyde (0.53 g, 97%) as a yellow crystalline solid; mp 46-47° C.; δH (500 MHz, CDCl3) 1.86 (t, J=2.5 Hz, 3H, C≡CCH3), 4.81 (q, J=2.5 Hz, 2H, OCH2), 6.68 (t, J=72.0 Hz, 1H, CHF2), 7.33 (d, J5,6=8.0 Hz, 1H, H5), 7.50 (dd, J5,6=8.0, J2,6=2.0 Hz, 1H, H6), 7.63 (d, J2,6=2.0 Hz, 1H, H2), 9.96 (s, 1H, CHO); δC (125 MHz, CDCl3) 3.7, 57.5, 72.7, 85.3, 113.4, 115.6 (t, J=256 Hz), 121.8, 125.1, 134.4, 145.3, 149.7, 190.7; νmax 1123, 1268, 1435, 1505, 1597, 1698, 2858 cm−1.

reactant | But-2-ynyl bromide | 3.4 mmol, 0.29 mL | C(C#CC)Br | C4H5Br
reactant | 4-difluoromethoxy-3-hydroxybenzaldehyde | 2.3 mmol, 0.43 g | FC(OC1=C(C=C(C=O)C=C1)O)F | C8H6F2O3
reactant | potassium carbonate | 6.9 mmol, 0.95 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-(but-2-ynyloxy)-4-difluoromethoxybenzaldehyde | 0.53 g, 97% | C(C#CC)OC=1C=C(C=O)C=CC1OC(F)F | C12H10F2O3
